US05972937
3-(N,N-Dimethylaminomethyl)aniline (D25)
A stirred suspension of lithium aluminium hydride (0.24 g, 6.3 mmol) in tetrahydrofuran (THF) (15 ml) at 0° C. under Argon, was treated dropwise over a period of fifteen minutes, with a solution of N,N-Dimethyl-3-aminobenzamide (D24) (0.68 g, 4.2 mmol) in THF (15 ml). The reaction mixture was allowed to warm to room temperature after which it was heated to reflux for 2 hours. The reaction mixture was allowed to cool to room temperature then treated sequentially with water (0.24 ml), 10% sodium hydroxide solution (0.24 ml) then water (0.72 ml). The reaction mixture was filtered through kieselguhr and the filtrate dried (Na2SO4) and concentrated in vacuo to afford the title compound as a pale brown oil (0.55 g, 87%).

reactant | lithium aluminium hydride | 6.3 mmol, 0.24 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N,N-Dimethyl-3-aminobenzamide | 4.2 mmol, 0.68 g | CN(C(C1=CC(=CC=C1)N)=O)C | C9H12N2O
reactant | water | 0.24 ml | O | H2O
reactant | sodium hydroxide | 0.24 ml | [OH-].[Na+]
reactant | water | 0.72 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | THF | 15 ml | O1CCCC1 | C4H8O
product | 3-(N,N-Dimethylaminomethyl)aniline | 0.55 g, 87% | CN(C)CC=1C=C(N)C=CC1 | C9H14N2
